US07648997B2
Diisopropyl azodicarboxylate (372 μL, 1.89 mmol) was added to a stirred solution of 3-(5,6-dimethyl-8-propyl-7H-imidazo[4,5-c]tetraazolo[1,5-α]pyridin-7-yl)propan-1-ol (500 mg, 1.72 mmol), triphenylphosphine (496 mg, 1.89 mmol), and N-hydroxyphthalimide (308 mg, 1.89 mmol) in DMF (17 mL) at room temperature. After 4 hours, the solvent was removed under reduced pressure to afford an oil that was triturated with ethyl acetate to generate a pink solid. The solid was isolated by filtration and washed with ethyl acetate to yield 630 mg of 2-[3-(5,6-dimethyl-8-propyl-7H-imidazo[4,5-c]tetraazolo[1,5-α]pyridin-7-yl)propoxy]-1H-isoindole-1,3(2H)-dione as a pink powder.

reactant | Diisopropyl azodicarboxylate | 1.89 mmol, 372 μL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | 3-(5,6-dimethyl-8-propyl-7H-imidazo[4,5-c]tetraazolo[1,5-α]pyridin-7-yl)propan-1-ol | 1.72 mmol, 500 mg | CC1=C(C2=C(C=3N1N=NN3)N=C(N2CCCO)CCC)C | C14H20N6O
reactant | triphenylphosphine | 1.89 mmol, 496 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-hydroxyphthalimide | 1.89 mmol, 308 mg | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
solvent | DMF | 17 mL | CN(C)C=O | C3H7NO
product | 2-[3-(5,6-dimethyl-8-propyl-7H-imidazo[4,5-c]tetraazolo[1,5-α]pyridin-7-yl)propoxy]-1H-isoindole-1,3(2H)-dione | 630 mg | CC1=C(C2=C(C=3N1N=NN3)N=C(N2CCCON2C(C3=CC=CC=C3C2=O)=O)CCC)C | C22H23N7O3
